US06610688B2
Lithium hydroxide (1.02 g, 42.65 mmol) was added to a suspension of 5-(2-tert-butoxycarbonyl-ethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (2.4 g, 8.53 mmol) in methanol (50 mL) and water (12 mL). Ethanol (4 mL) was added to the mixture (to aid solvation of the starting material) and it was stirred at room temperature for overnight. The reaction was diluted with water (20 mL), concentrated (to remove most of the alcohol) and extracted with ether. The aqueous layer was the acidified to pH=2 using 1N HCl (43 mL) and extracted with ethyl acetate (2×). The combined extract was then washed with brine, dried and concentrated to give 1.89 g of 5-(2-carboxy-ethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester as a white solid.

reactant | Lithium hydroxide | 42.65 mmol, 1.02 g | [OH-].[Li+]
reactant | 5-(2-tert-butoxycarbonyl-ethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 8.53 mmol, 2.4 g | C(C)OC(=O)C=1NC(=CC1C)CCC(=O)OC(C)(C)C | C15H23NO4
reactant | Ethanol | 4 mL | C(C)O | C2H6O
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 12 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 5-(2-carboxy-ethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.89 g | C(C)OC(=O)C=1NC(=CC1C)CCC(=O)O | C11H15NO4
